US08304546B2
4-(2-Aminoethyl)morpholine (184 mg, 1.41 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (WSC, 295 mg, 1.54 mmol) and 1-hydroxybenzotriazole (HOBT, 215 mg, 1.41 mmol) were added to a DMF solution (7 ml) of [5-fluoro-3-(4-hydroxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]acetic acid (500 mg, 1.34 mmol) and then the mixture was stirred at room temperature for 23 hours. Water and triethylamine were added to the reaction mixture to make the reaction mixture basic, followed by extraction using ethyl acetate. The thus-obtained organic layer was washed with an aqueous saturated sodium chloride solution, and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=30:1→10:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate, giving a white powder of 2-[5-fluoro-3-(4-hydroxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]-N-(2-morpholin-4-ylethyl)acetamide (157 mg, yield: 24%).

reactant | 4-(2-Aminoethyl)morpholine | 1.41 mmol, 184 mg | NCCN1CCOCC1 | C6H14N2O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.54 mmol, 295 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.41 mmol, 215 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | [5-fluoro-3-(4-hydroxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]acetic acid | 1.34 mmol, 500 mg | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CC(=O)O)C1=CC=C(C=C1)O)=O | C20H18FNO5
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 2-[5-fluoro-3-(4-hydroxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]-N-(2-morpholin-4-ylethyl)acetamide | 157 mg, yield: 24% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CC(=O)NCCN1CCOCC1)C1=CC=C(C=C1)O)=O | C26H30FN3O5
